US09145380B2
2-[2-(4-Tert-butylphenyl)ethylsulfonylamino]benzenesulfonamide
2-Aminobenzenesulfonamide (0.057 g, 0.33 mmol) was dissolved in pyridine (2.5 mL) followed by addition of (E)-2-(4-tert-butylphenyl)ethenesulfonyl chloride (0.078 g, 0.30 mmol) and the reaction was stirred at RT overnight. The solvent was then removed under reduced pressure and the pale yellow oily residue was used in the next step without further purification. The crude material (0.118 g, 0.3 mmol) was dissolved in MeOH (5 mL) with a few drops of EtOAc and was subjected to reduction using the H-cube instrument. The reaction mixture was eluted through the Pd/C (10%) cartridge using full hydrogen (1 atm) at 1 ml/min. The mixture was subjected to the H-cube once again using the same conditions for full conversion of the starting material and purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (56 mg, 47%) as a white solid.

reactant | 2-Aminobenzenesulfonamide | 0.33 mmol, 0.057 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | (E)-2-(4-tert-butylphenyl)ethenesulfonyl chloride | 0.30 mmol, 0.078 g | C(C)(C)(C)C1=CC=C(C=C1)/C=C/S(=O)(=O)Cl | C12H15ClO2S
solvent | pyridine | 2.5 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 5 mL | CO | CH4O
catalyst | EtOAc | a few drops | CCOC(=O)C | C4H8O2
product | 2-[2-(4-Tert-butylphenyl)ethylsulfonylamino]benzenesulfonamide | 56 mg, 47% | C(C)(C)(C)C1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C18H24N2O4S2
